US09169254B2
NaH2PO4 (418 mg, 3.48 mmol) in H2O (17.6 ml), a 35% aqueous H2O2 solution (2.5 ml, 25.7 mmol) and NaClO2 (2.23 g, 24.7 mmol) in H2O (34.9 ml) were sequentially added to a mixture of 4-bromo-2-fluoro-5-methyl-benzaldehyde (3.74 g, 17.2 mmol) in MeCN (52 ml) at 0° C. The mixture was stirred at room temperature for 14 hours, and then made acidic (pH 3) with a 10% aqueous HCl solution and extracted with ethyl acetate (3×100 ml). The organic layers were washed with H2O (70 ml), and then dried over MgSO4 and concentrated under reduced pressure to give 4-bromo-2-fluoro-5-methyl-benzoic acid as a pale orange solid (4.02 g, 100%).

reactant | H2O2 | 25.7 mmol, 2.5 ml | OO | H2O2
reactant | NaClO2 | 24.7 mmol, 2.23 g | [O-]Cl=O.[Na+]
reactant | 4-bromo-2-fluoro-5-methyl-benzaldehyde | 17.2 mmol, 3.74 g | BrC1=CC(=C(C=O)C=C1C)F | C8H6BrFO
reactant | HCl | Cl | ClH
solvent | H2O | 17.6 ml | O | H2O
solvent | H2O | 34.9 ml | O | H2O
solvent | MeCN | 52 ml | CC#N | C2H3N
product | 4-bromo-2-fluoro-5-methyl-benzoic acid | 4.02 g, 100% | BrC1=CC(=C(C(=O)O)C=C1C)F | C8H6BrFO2
